US07419975B2
(2S,3R)-3-But-3-enyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid ethyl ester (C):
To a solution of diisopropylamine(3.6 g, 35.7 mmol) in THF(80 mL) at −40° C. is added BuLi(14.28 mL, 35.7 mmol, 2.5 M in hexane) slowly. The solution is warmed to 0° C. and stirred for 30 min to form an LDA solution. The LDA solution is cooled to −70° C. and added to a solution of [But-3-enyl-((S)-1-phenyl-ethyl)-amino]-acetic acid ethyl ester(7.8 g, 29.8 mmol) in THF (80 mL) slowly at −70° C. The light yellowish reaction solution is stirred at −20° C. for 30 min to become a deep yellow solution, and then cooled to −70° C. To the solution is added **ZnBr2**(16.76 g, 74.5 mmol) in ether (50 mL) dropwise at −70° C. After stirring at RT for 1.5 hrs, the reaction solution is cooled to 0° C. and added a solution of CuCN(3.47 g, 38.74 mmol) and LiCl(3.29 g, 77.48 mmol) in THF(80 mL) slowly. After stirring at 0° C. for 10 min, allyl bromide(7.26 g, 60 mmol) is added dropwise to the reaction solution, and warmed very slowly to r.t. After stirring overnight at r.t., the reaction is quenched by addition of 60 mL of saturated NH4Cl and extracted with 3×150 mL of ether. The combined organic layers is concentrated. The crude product is purified by chromatography (hexane/EtOAc: 85/15) to give a colorless liquid(7.4 g, 82.6%). (NMR and MS data confirmed, U-4117-40-19, U-4117-34-35). ** ZnBr2** is dried at 150° C. under high vacuum for 1 hour before used**

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | [But-3-enyl-((S)-1-phenyl-ethyl)-amino]-acetic acid ethyl ester | 29.8 mmol, 7.8 g | C(C)OC(CN([C@@H](C)C1=CC=CC=C1)CCC=C)=O | C16H23NO2
reactant | CuCN | 38.74 mmol, 3.47 g | C(#N)[Cu]
reactant | LiCl | 77.48 mmol, 3.29 g | [Li+].[Cl-]
reactant | allyl bromide | 60 mmol, 7.26 g | C(C=C)Br | C3H5Br
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | ZnBr2 | [Zn+2].[Br-].[Br-]
product | (2S,3R)-3-But-3-enyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid ethyl ester | 7.4 g, 82.6% | C(C)OC(=O)[C@H]1N(CC[C@H]1CCC=C)[C@@H](C)C1=CC=CC=C1 | C19H27NO2
